US08748442B2
A solution of 2-(1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazol-3-yl)pyrimidine-4,5-diamine hydrochloride (I-107) (30 mg, 0.077 mmol) in acetic acid (2 mL) was heated to 110° C. for 18 h. After cooling to room temperature, the solution was partitioned between ethyl actetate (50 mL) and saturated aqueous sodium carbonate. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The organics were dried over MgSO4, filtered, and the solvent was removed in vacuo to give the crude product as a tan residue. Dichloromethane (3 mL) and diethyl ether (5 mL) were added, and the resulting white solid was filtered and washed with additional diethyl ether ether to give N-(4-amino-2-(1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazol-3-yl)pyrimidin-5-yl)acetamide (24 mg, 0.061 mmol, 79% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.42 (d, 1H), 8.26 (s, 1H), 7.66 (br s, 1H), 7.34 (s, 1H), 7.18-7.13 (m, 1H), 7.01-6.96 (s, 1H), 6.92 (t, 1H), 6.77 (t, 1H), 6.56 (d, 1H), 5.96 (s, 2H), 5.57 (br s, 2H), 2.12 (s, 3H).

reactant | 2-(1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazol-3-yl)pyrimidine-4,5-diamine hydrochloride | 0.077 mmol, 30 mg | Cl.FC1=C(CN2N=C(C=C2C2=NOC=C2)C2=NC=C(C(=N2)N)N)C=CC=C1
reactant | Dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | N-(4-amino-2-(1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazol-3-yl)pyrimidin-5-yl)acetamide | 0.061 mmol, 24 mg, 79% yield | NC1=NC(=NC=C1NC(C)=O)C1=NN(C(=C1)C1=NOC=C1)CC1=C(C=CC=C1)F | C19H16FN7O2
